US07485634B2
Preparation of n-propyl 3(4-fluorobenzoyl)-2-methyl-8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using 2-methyl-8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester and 4-fluorobenzoyl chloride; 1H NMR (CDCl3) δ 10.47 (1H, s), 7.96 (1H, s), 7.61-7.65 (2H, m), 7.41 (1H, m), 7.17 (2H, t), 7.05 (1H, dd), 6.90 (1H, t), 5.63 (1H, m), 4.17 (2H, m), 4.05 (2H, m), 3.38 (1H, dd), 3.07 (1H, dd), 1.55 (2H, m), 1.07 (3H, d), 0.77 (3H, t); MS (ES): 425 (MH+).

reactant | 2-methyl-8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester | C(CC)OC(=O)C1=CNC(CC2=C1NC=1C=C(C=CC21)F)C | C17H19FN2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | n-propyl 3(4-fluorobenzoyl)-2-methyl-8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=C(C=CC4C3CC2C)F)C(=O)OCCC)C=C1 | C24H22F2N2O3
